US07674802B2
4-{(R)-2-[4-(3-Chloro-indazol-2-yl)-phenoxymethyl]-pyrrolidin-1-yl}-butyric acid methyl ester:
The title compound was prepared from product from 3-chloro-2-[4-((R)-1-pyrrolidin-2-ylmethoxy)-phenyl]-2H-indazole (0.4 g, 1.1 mmol) and methyl 4-bromobutyrate (0.25 g, 1.4 mmol) using the procedure of step 7 of the Example 5 to provide the title compound (0.38 g, 79%).

reactant | 3-chloro-2-[4-((R)-1-pyrrolidin-2-ylmethoxy)-phenyl]-2H-indazole | 1.1 mmol, 0.4 g | ClC=1N(N=C2C=CC=CC12)C1=CC=C(C=C1)OC[C@@H]1NCCC1 | C18H18ClN3O
reactant | methyl 4-bromobutyrate | 1.4 mmol, 0.25 g | BrCCCC(=O)OC | C5H9BrO2
product | 4-{(R)-2-[4-(3-Chloro-indazol-2-yl)-phenoxymethyl]-pyrrolidin-1-yl}-butyric acid methyl ester | 0.38 g, 79% | COC(CCCN1[C@H](CCC1)COC1=CC=C(C=C1)N1N=C2C=CC=CC2=C1Cl)=O | C23H26ClN3O3
